US09428508B2
To a suspension of methyl 7-nitrobenzofuran-2-carboxylate (4.12 g, 18.6 mmol) in ethanol (100 mL) was added potassium hydroxide (2.08 g, 37.1 mmol). The mixture was heated at reflux for 1 hour, cooled to room temperature and evaporated. The residue was diluted with water, acidified by concentrated hydrochloric acid (12 N). The suspension was stirred for another 30 minutes, and then filtrated. The precipitate was collected, washed with water and dried to afford the product 7-nitrobenzofuran-2-carboxylic acid (3.54 g, yield 92%). 1H NMR (400 MHz, CDCl3) δ ppm 8.28-8.30 (dd, 1H, J=0.8 Hz, 8.0 Hz), 8.06-8.08 (dd, 1H, J=0.8 Hz, 7.6 Hz), 7.641-7.642 (d, 1H, J=0.4 Hz), 7.47-7.51 (m, 2H).

reactant | methyl 7-nitrobenzofuran-2-carboxylate | 18.6 mmol, 4.12 g | [N+](=O)([O-])C1=CC=CC=2C=C(OC21)C(=O)OC | C10H7NO5
reactant | potassium hydroxide | 37.1 mmol, 2.08 g | [OH-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 7-nitrobenzofuran-2-carboxylic acid | 3.54 g, yield 92% | [N+](=O)([O-])C1=CC=CC=2C=C(OC21)C(=O)O | C9H5NO5
